US06528528B2
3-[3-(3,5-Dimethylphenyl)-thioureido]-4-methoxy-N-phenyl-benzamide
Prepared according to the procedure described for Example 98 using 3-amino-4-methoxy-N-phenyl-benzamide (0.974 g, 4.01 mmol) and 3,5-dimethylphenyl isothiocyanate (0.66 g, 4.04 mmol) to afford the product (0.42 g); m.p. 203-205° C.

reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 4.01 mmol, 0.974 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
reactant | 3,5-dimethylphenyl isothiocyanate | 4.04 mmol, 0.66 g | CC=1C=C(C=C(C1)C)N=C=S | C9H9NS
product | 3-[3-(3,5-Dimethylphenyl)-thioureido]-4-methoxy-N-phenyl-benzamide | 0.42 g | CC=1C=C(C=C(C1)C)NC(NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC)=S | C23H23N3O2S
